US05274089
N-Formyl-3-methoxyestra-1,3,5(10)-trien-17β-amine
A mixture of estrone methyl ether (14.2 g) and 2-(2-aminoethyl)-pyridine (24 ml, 24.4 g) is stirred and cooled in an ice bath. To this mixture, formic acid (97-98%, 11.5 ml) is added in portions. The mixture is then heated in an oil bath (180°-190° C. bath temp.) for 24 hours. The mixture is poured onto ice, treated with NAOH, and extracted with methylene chloride (3×). The extracts are dried (Na2SO4), filtered, and concentrated to give a solid. The solid is crystallized from methylene chloride-hexane to give crystals. Recrystallization from methylene chloride-acetone gives the title compound, mp 252°-253° C. preceded by yellowing. (PLA2-, diabetes)

reactant | estrone methyl ether | 14.2 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=C3C=CC(=C4)OC | C19H24O2
reactant | 2-(2-aminoethyl)-pyridine | 24 ml, 24.4 g | NCCC1=NC=CC=C1 | C7H10N2
reactant | formic acid | 11.5 ml | C(=O)O | CH2O2
product | N-Formyl-3-methoxyestra-1,3,5(10)-trien-17β-amine | C(=O)N[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C20H27NO2
